US09447084B2
1-[(4-[5-[3-chloro-5-(trifluoromethyl)phenyl]-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazol-3-yl]-2-(trifluoromethyl)phenyl)carbonyl]imidazolidin-4-one
Into a 50-mL round bottom flask, was placed 4-[5-[3-chloro-5-(trifluoromethyl)phenyl]-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazol-3-yl]-2-(trifluoromethyl)benzoic acid (50 mg, 0.10 mmol, 1.00 equiv), N,N-dimethylformamide (2 mL), EDCI (38 mg, 0.20 mmol, 2.00 equiv), HOBt (27 mg, 0.20 mmol, 2.02 equiv), TEA (50 mg, 0.49 mmol, 5.00 equiv), imidazolidin-4-one (17 mg, 0.20 mmol, 2.00 equiv). The resulting solution was stirred for 30 min at 25° C. The resulting solution was allowed to react, with stirring, for an additional 5 h at 25° C. The reaction was then quenched by the addition of 10 ml of water. The resulting solution was extracted with 2×10 ml of ethyl acetate and the organic layers combined. The resulting mixture was washed with 3×10 mL of brine. The resulting mixture was concentrated under vacuum. The residue was applied onto a TLC plate with PE/EA (1/1). This resulted in 50 mg (79%) of 1-[(4-[5-[3-chloro-5-(trifluoromethyl)phenyl]-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazol-3-yl]-2-(trifluoromethyl)phenyl)carbonyl]imidazolidin-4-one as yellow oil.

reactant | 4-[5-[3-chloro-5-(trifluoromethyl)phenyl]-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazol-3-yl]-2-(trifluoromethyl)benzoic acid | 0.10 mmol, 50 mg, 1.00 equiv | ClC=1C=C(C=C(C1)C(F)(F)F)C1(CC(=NO1)C1=CC(=C(C(=O)O)C=C1)C(F)(F)F)C(F)(F)F | C19H9ClF9NO3
reactant | EDCI | 0.20 mmol, 38 mg, 2.00 equiv | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 0.20 mmol, 27 mg, 2.02 equiv | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | imidazolidin-4-one | 0.20 mmol, 17 mg, 2.00 equiv | N1CNC(C1)=O | C3H6N2O
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | 1-[(4-[5-[3-chloro-5-(trifluoromethyl)phenyl]-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazol-3-yl]-2-(trifluoromethyl)phenyl)carbonyl]imidazolidin-4-one | ClC=1C=C(C=C(C1)C(F)(F)F)C1(CC(=NO1)C1=CC(=C(C=C1)C(=O)N1CNC(C1)=O)C(F)(F)F)C(F)(F)F | C22H13ClF9N3O3
